US04024142
When 0.14 mole each of 3,4-dichloro-6-nitroaniline and phenanthrenequinone were reacted by the method of Example 1, 48.8 g. (99.9 percent yield) of 11,12-dichlorodibenzo[a,c]phenazine, mp = 263°-264° C. (DMF), were obtained.

reactant | 3,4-dichloro-6-nitroaniline | 0.14 mole | ClC=1C=C(N)C(=CC1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | phenanthrenequinone | C1(C(C=CC=2C3=CC=CC=C3C=CC12)=O)=O | C14H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 11,12-dichlorodibenzo[a,c]phenazine | 99.9 percent yield | ClC=1C=C2N=C3C4=C(C5=C(C3=NC2=CC1Cl)C=CC=C5)C=CC=C4 | C20H10Cl2N2
